US08802711B2
(1R,4R)-4-phenylcyclopent-2-enol
A solution of (1R,4S)-4-acetoxy-2-cyclopenten-1-ol (491 mg, 3.45 mmol), THF (10 mL), and copper(I) cyanide (93 mg, 1.04 mmol) was cooled to <−20° C. and phenylmagnesium chloride (2.0 M in THF, 5.18 mL, 10.4 mmol) was added at the same temperature. After 10 minutes, TLC (50% EtOAc/hexanes) showed complete conversion. Saturated aqueous NH4Cl (50 mL) was added, extracted with EtOAc (3×50 mL), and dried (Na2SO4) the combined organic layers. Concentrated and purified the residue by flash column chromatography (10-50% EtOAc/hexanes, gradient elution), to provide the title compound (463 mg, 2.89 mmol, 84%). MS (DCI) m/z 143 (M−OH)+.

reactant | (1R,4S)-4-acetoxy-2-cyclopenten-1-ol | 3.45 mmol, 491 mg | C(C)(=O)O[C@@H]1C=C[C@@H](C1)O | C7H10O3
reactant | copper(I) cyanide | 1.04 mmol, 93 mg | [Cu]C#N
reactant | phenylmagnesium chloride | 10.4 mmol, 2.0 M, 5.18 mL | C1(=CC=CC=C1)[Mg]Cl
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (1R,4R)-4-phenylcyclopent-2-enol | 2.89 mmol, 463 mg, 84% | C1(=CC=CC=C1)[C@H]1C=C[C@@H](C1)O | C11H12O
